datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:24])[H:25])[H:26])([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:11])[H:10])([H:8])[H:9],65.8143
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[C:5]([O:6])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3](=[O:4])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],66.23272
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]([H:8])[H:9]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:8])[H:4].[S:7][H:9],-1.2552
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:6],41.9237
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]1[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:9])[H:10])([H:7])([H:8])[H:11],137.654
[N:0]=[N:1][H:2]>>[H:2].[N:0]#[N:1],0.0
[O:0][H:1].[c:2]1([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19]>>[O:0]([H:1])[H:15].[c:2]1([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6][c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19],18.300816
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16],-13.7026
[O:0]([S:1])[H:2]>>[H:2].[O:0][S:1],231.0
[C:0](=[N:1][H:4])([H:2])[H:3].[O:5][H:6]>>[C:0](=[N:1][H:4])[H:3].[H:2][O:5][H:6],101.378
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])[H:9])([H:7])[H:8],32.5515
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:8])([H:6])[H:7],38.0744
[C:0]([C:1](=[C:2]=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])=[C:2]=[C:3]([H:9])[C:4]([H:10])[C:5]1([H:11])[H:12],146.44
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:16])[H:6].[C:11]([S:12])([H:13])([H:14])[H:15],39.748
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],65.103
[C:1]([H:2])([H:3])[H:4].[N:5]([N:6][H:7])([H:8])[H:9]>>[C:1]([H:2])([H:3])([H:4])[H:8].[N-:5]=[N+:6]([H:7])[H:9],0.0
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[O:12]>>[C:0]([C:1]1([H:7])[C:2]([C:3]([H:9])([H:10])[H:11])([H:8])[O:12]1)([H:4])([H:5])[H:6],0.0
[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:10].[H:11],167.180088
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:5][C:6]([H:14])([H:15])[H:16])[H:7].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:5][H:17])[H:7].[C:6]([H:14])([H:15])[H:16],19.2464
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])[H:9],12.1754
